US07915267B2
N-{[4′-({5-[2-(ethyloxy)ethyl]-2,4,6-trioxohexahydropyrimidin-5-yl}oxy)biphenyl-3-yl]methyl}-4-oxo-3,4-dihydroquinazoline-2-carboxamide
A suspension of N-[(4′-hydroxybiphenyl-3-yl)methyl]-4-oxo-3,4-dihydroquinazoline-2-carboxamide obtained in Reference Example 119 (0.100 g, 0.269 mmol), 5-bromo-5-[2-(ethyloxy)ethyl]pyrimidine-2,4,6(1H,3H,5H)-trione obtained according to the methods described in WO02/34726 and the like (0.075 g, 0.269 mmol) and potassium carbonate (0.186 g, 1.34 mmol) in DMF (5 mL) was stirred at room temperature for 5 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized from ethyl acetate-IPE to give the title compound as a white powder (0.078 g, 51%).

reactant | N-[(4′-hydroxybiphenyl-3-yl)methyl]-4-oxo-3,4-dihydroquinazoline-2-carboxamide | OC1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=NC2=CC=CC=C2C(N1)=O | C22H17N3O3
reactant | 5-bromo-5-[2-(ethyloxy)ethyl]pyrimidine-2,4,6(1H,3H,5H)-trione | BrC1(C(NC(NC1=O)=O)=O)CCOCC | C8H11BrN2O4
reactant | potassium carbonate | 1.34 mmol, 0.186 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{[4′-({5-[2-(ethyloxy)ethyl]-2,4,6-trioxohexahydropyrimidin-5-yl}oxy)biphenyl-3-yl]methyl}-4-oxo-3,4-dihydroquinazoline-2-carboxamide | 0.078 g, 51% | C(C)OCCC1(C(NC(NC1=O)=O)=O)OC1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=NC2=CC=CC=C2C(N1)=O | C30H27N5O7
